US07678913B2
A mixture of 4-iodopyridine (218 mg, 1.06 mmol), 4-methyl-2-piperazinone (106 mg, 0.929 mmol), K3PO4 (425 mg, 2.00 mmol) and 1,2-trans-diaminocyclohexane (0.050 mL, 0.41 mmol) in anhydrous dioxane (3.0 mL) was degassed with Ar before being charged with CuI (40 mg, 0.21 mmol). The mixture in a sealed tube was heated at 110 ° C. overnight. The mixture was purified by a prep-TLC using MeOH/CH2Cl2 (10/90) as solvents to give 1-(pyridin-4-yl)-4-methyl-2-piperazinone (42 mg). MS 192.5 (M+H).

reactant | 4-iodopyridine | 1.06 mmol, 218 mg | IC1=CC=NC=C1 | C5H4IN
reactant | 4-methyl-2-piperazinone | 0.929 mmol, 106 mg | CN1CC(NCC1)=O | C5H10N2O
reactant | K3PO4 | 2.00 mmol, 425 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 1,2-trans-diaminocyclohexane | 0.41 mmol, 0.050 mL | N[C@H]1[C@@H](CCCC1)N | C6H14N2
solvent | dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
catalyst | CuI | 0.21 mmol, 40 mg | [Cu]I
product | 1-(pyridin-4-yl)-4-methyl-2-piperazinone | 42 mg | N1=CC=C(C=C1)N1C(CN(CC1)C)=O | C10H13N3O
